US04046900
A mixture of 9.7 g of 4-(4-hydroxybenzoyl)piperidine hydrobromide, 6.4 g of sodium bicarbonate and 7.0 g of 3-(2-bromoethyl)indole in 90 ml of dimethylsulfoxide is stirred overnight under nitrogen at 50° C. After cooling to ambient temperature, water is added dropwise, precipitating a gummy brown solid. The supernatant solution is decanted from the solid, triturated with water, collected, and dried. Recrystallization from an ethanol-water mixture gives an off-white solid, mp 212°-214° C. (dec.) of 3-{2-[4-(4-hydroxybenzoyl)piperidyl]ethyl}indole.

reactant | 4-(4-hydroxybenzoyl)piperidine hydrobromide | 9.7 g | Br.OC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | sodium bicarbonate | 6.4 g | C([O-])(O)=O.[Na+]
reactant | 3-(2-bromoethyl)indole | 7.0 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | water | O | H2O
solvent | dimethylsulfoxide | 90 ml | CS(=O)C | C2H6OS
product | 3-{2-[4-(4-hydroxybenzoyl)piperidyl]ethyl}indole | OC1=CC=C(C(=O)C2CCN(CC2)CCC2=CNC3=CC=CC=C23)C=C1 | C22H24N2O2
